US07425568B2
2-(2-Chlorophenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 1.12 g of 2(2-chlorophenyl)-6-hydroxychroman-4-one. 1H NMR (400 MHz, d6-DMSO) δ: 7.63 (dd, 1H, J 7.7, 1.8 Hz), 7.49 (dd, 1H, J 7.8, 1.4 Hz), 7.45-7.36 (m, 2H), 6.89 (d, 1H, J 2.9 Hz), 6.63 (d, 1H, J 8.8 Hz), 6.56 (dd, 1H, J 8.9, 2.9 Hz), 5.39 (dd, 1H, J 11.7, 1.5 Hz), 4.90 (m, 1H), 2.33 (m, 1H), 1.82 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 2(2-chlorophenyl)-6-hydroxychroman-4-one | 1.12 g | ClC1=C(C=CC=C1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11ClO3
product | 2-(2-Chlorophenyl)chroman-4,6-diol | ClC1=C(C=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13ClO3
